US04960946
3-(3-methoxy-3-methylbut-1-yl)cyclohexanone (1.4 g, 0.0051 mol) was dissolved in tetrahydrofuran (10 mL) and cooled to -78~C under a nitrogen atmosphere with stirring. A solution of lithium tri-sec-butylborohydride (6.1 mL of a 1 M solution of tetrahydrofuran, 0.0061 mol) was added. The mixture was allowed to come to 20~C over 16 hours and 10% NaOH (aq, 4.0 mL) was added, followed by 30% hydrogen peroxide (aq, 4.0 mL). The mixture was extracted with hexane. The extracts were dried (Na2SO4) and concentrated to the residue which was purified by bulb to bulb distillation (air bath temp 175~C, 0.1 mm Hg) to yield 3-(3-methoxy-methylbut-1-yl)cyclohexanol as a mixture of diastereoisomers in the ratio of 94:6 (0.7 g). NMR(CDC13)δ1.1(s,6H), 1.2-1.8(m,13H), 3.2(s,3H), 4.1(brs,1H). IR (neat) 3410, 2990, 2960, 2870, 1460, 1370, 1110, 1090, 980 cm-1. MS (m/e) 43, 73, 109, 124, 143, 181, 201, 214.

reactant | 3-(3-methoxy-3-methylbut-1-yl)cyclohexanone | 0.0051 mol, 1.4 g | COC(CCC1CC(CCC1)=O)(C)C | C12H22O2
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | NaOH | 4.0 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 4.0 mL | OO | H2O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(3-methoxy-methylbut-1-yl)cyclohexanol | COC(CC(C1CC(CCC1)O)C)C | C12H24O2
